US07495103B2
4-Methoxy-benzene-1,3-diamine (D-3) was synthesized following the general scheme above starting from 1-methoxy-2,4-dinitro-benzene. Yield (quant.). HPLC ret. time 0.31 min, 10-99% CH3CN, 5 min run.

reactant | 1-methoxy-2,4-dinitro-benzene | COC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H6N2O5
solvent | CH3CN | CC#N | C2H3N
product | 4-Methoxy-benzene-1,3-diamine | COC1=C(C=C(C=C1)N)N | C7H10N2O
